US20010053779A1
A mixture comprising benzyl 2-(1-ethoxycarbonylethyl)-1,4,6,7-tetrahydroimidazo[4,5-c]pyridine-5-carboxylate (6.37 g, 0.018 mol), 4-amino-3-(N-methylamino)benzoic acid (2.70 g, 0.016 mol) and DMPU (20 mL) was degassed briefly on a vacuum line, heated heated at 185° C. under nitrogen for 4 hours, cooled and combined with an equivalent volume of benzene. Ether was then added to the mixture to give a precipitate. The precipitate was isolated by filtration, dried briefly on a vacuum line and further purified by a reprecipitation from hot ethanol/water. The precipitate was isolated recovered by filtration and dried to provided 2-[1-(5-benzyloxycarbonyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)ethyl]-3-methyl-3H-benzoimidazole-5-carboxylic acid (4.73 g, 58%); 1H-NMR (300 MHz, DMSO-d6) d ppm: 12.70 (br s, 1H), 11.80 (s, 1H), 8.15 (s, 1H), 7.78 (d, 1H, J=8.3 Hz), 7.64 (d, 1H, J=8.3 Hz), 7.31 (s, 5H), 5.09 (s, 2H), 4.66 (q, 1H, J=5.2 Hz), 4.32 (br s, 2H), 3.78 (s, 3H), 3.65 (br s, 2H), 2.52 (br s, 2H), 1.73 (d, 3H, J=5.2 Hz).

reactant | benzyl 2-(1-ethoxycarbonylethyl)-1,4,6,7-tetrahydroimidazo[4,5-c]pyridine-5-carboxylate | 0.018 mol, 6.37 g | C(C)OC(=O)C(C)C=1NC2=C(CN(CC2)C(=O)OCC2=CC=CC=C2)N1 | C19H23N3O4
reactant | 4-amino-3-(N-methylamino)benzoic acid | 0.016 mol, 2.70 g | NC1=C(C=C(C(=O)O)C=C1)NC | C8H10N2O2
reactant | DMPU | 20 mL | CN1CCCN(C1=O)C | C6H12N2O
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | Ether | CCOCC | C4H10O
product | 2-[1-(5-benzyloxycarbonyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)ethyl]-3-methyl-3H-benzoimidazole-5-carboxylic acid | 4.73 g, 58% | C(C1=CC=CC=C1)OC(=O)N1CC2=C(CC1)NC(=N2)C(C)C=2N(C1=C(N2)C=CC(=C1)C(=O)O)C | C25H25N5O4
